US08202873B2
{2-Fluoro-4-[4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride
Stir together 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (184 mg, 0.50 mmol), [2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanol (151 mg, 0.60 mmol), potassium carbonate (166 mg, 1.20 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.006 g, 0.003 mmol) and water (1 mL), in N,N-dimethylacetamide (2 mL) at room temperature under nitrogen, then heat at 120° C. for 3 hr. Cool to room temperature, add water (20 mL) and extract with DCM (3×20 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®, concentrate and purify (silica gel chromatography, eluting with 5:95 to 15:85 methanol:DCM). Dry in a vacuum oven over night, then dissolve the yellow powder in acetonitrile. Add 2 M aq. HCl and water then lyophilize to give the title compound as light yellow powder (203 mg, 82%). MS (ES): m/z=459 [M+H].

reactant | 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.50 mmol, 184 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C1=CC=CC=C1 | C19H21ClN6
reactant | [2-fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-methanol | 0.60 mmol, 151 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)CO | C13H18BFO3
reactant | potassium carbonate | 1.20 mmol, 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 mL | O | H2O
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylacetamide | 2 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.003 mmol, 0.006 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {2-Fluoro-4-[4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride | 203 mg, 82% | Cl.FC1=C(C=CC(=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C1=CC=CC=C1)CO | InChI=1S/C26H27FN6O.ClH/c1-19-22(16-30-33(19)23-5-3-2-4-6-23)17-31-11-13-32(14-12-31)26-25(28-9-10-29-26)20-7-8-21(18-34)24(27)15-20;/h2-10,15-16,34H,11-14,17-18H2,1H3;1H
